US04054664
31.4 g. 3-t-Butyl-1,2,4-triazole-5-thiol was dissolved in 180 ml. industrial methylated spirits containing 12.4 g. potassium hydroxide. 99 g. 1,2-Dichloroethane was added and after four days the insoluble matter removed. 5-(2-Chloroethylthio)-3-t-butyl-1,2,4-triazole was obtained from the solution by evaporation.

reactant | 3-t-Butyl-1,2,4-triazole-5-thiol | C(C)(C)(C)C1=NNC(=N1)S | C6H11N3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1,2-Dichloroethane | ClCCCl | C2H4Cl2
product | 5-(2-Chloroethylthio)-3-t-butyl-1,2,4-triazole | ClCCSC1=NC(=NN1)C(C)(C)C | C8H14ClN3S
